* C:\Users\bismi\OneDrive\Documents\LTspice\SPICE\Amplifier.asc
XU1 Sig+ Sig- +9V -9V VOut REF N002 N004 INA848
XOPA197REF REF refamp197
C1 N002 N004 .22µ
V1 +9V 0 15
V2 0 -9V 15
C2 +9V 0 .1µ
C3 0 -9V .1µ
V3 N001 N003 SINE(0 10n 50) AC 0 Rser=13.25
C4 0 Sig+ 150µ
C5 Sig- 0 150µ
R1 Sig+ N001 10
R2 Sig- N003 10

* block symbol definitions
.subckt refamp197 5V
V1 5V 0 5
R1 5V N001 100k
R2 N001 0 100k
C1 N001 0 1µ
XU1 N001 Out 5V 0 Out OPAx197
.ends refamp197

* .tran 0 1 50u 1u
.noise V(VOut) V3 dec 10 .1 1000
* .meas TRAN Vpp PP V(Vout) FROM 100u TO 250m
.lib C:\Users\bismi\OneDrive\Documents\LTspice\SPICE\INA848.LIB
.lib C:\Users\bismi\OneDrive\Documents\LTspice\SPICE\OPAx197.LIB
.backanno
.end
